* Wurlitzer 200A Full Signal Chain — End-to-End Validation
* ========================================================
* Wires all four subcircuits: Pickup -> Preamp -> Power Amp -> Speaker
*
* Signal chain:
*   Reed displacement (sine) -> Pickup (B-source variable cap) ->
*   R-1 (22K) -> Preamp (2-stage CE with feedback) ->
*   Volume pot (3K wiper Z) -> Power Amp (Class AB, ±22.5V) ->
*   8 ohm speaker load
*
* Tremolo: Static LDR resistance from fb_junct to ground
*   Rldr=1M: no tremolo (~2.0x preamp gain)
*   Rldr=19K: tremolo bright (~4.0x preamp gain)
*
* NOTE: Uses 'reset' between transient runs (not 'destroy all')
*   because pickup B-source ddt() loses state after 'destroy all'.
*
* Run: ngspice -b tb_full_chain.cir

.title Full Signal Chain Validation

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/pickup.cir
.include ../subcircuits/preamp.cir
.include ../subcircuits/power_amp.cir

* ============================================================
* POWER SUPPLIES
* ============================================================
Vhv    vhv_node   0    DC 147
Vcc    vcc_node   0    DC 14.5
Vpos   vp_node    0    DC 22.5
Vneg   vn_node    0    DC -22.5

* ============================================================
* PICKUP
* ============================================================
Xpickup  pickup_out  reed_disp  vhv_node  0  wurli_pickup

* Reed displacement source
Vdisp  reed_disp  0  DC 0 SIN(0 0.10 440 0 0)

* ============================================================
* R-1: Series input resistor (external to both pickup and preamp)
* ============================================================
R1  pickup_out  preamp_in  22K

* ============================================================
* PREAMP
* ============================================================
Xpre  preamp_in  preamp_out  vcc_node  0  fb_junct  wurli_preamp

* LDR path: static resistance for tremolo (1M = no tremolo)
Rldr  fb_junct  0  1MEG

* ============================================================
* VOLUME POT (modeled as voltage divider)
* ============================================================
* 200A volume pot is ~3K total. At mid-position:
*   Source impedance ~750 ohm, load sees ~half signal.
* For simplicity: resistive divider, 50% position.
Rpot_top   preamp_out  vol_wiper  1.5K
Rpot_bot   vol_wiper   0          1.5K

* ============================================================
* POWER AMPLIFIER
* ============================================================
Xamp  vol_wiper  spkr_out  vp_node  vn_node  0  wurli_power_amp

* ============================================================
* SPEAKER LOAD
* ============================================================
* 200A: two 16 ohm speakers in parallel = 8 ohm
Rload  spkr_out  0  8

* ============================================================
.control

set filetype = ascii

echo "============================================================"
echo "Wurlitzer 200A Full Signal Chain Validation"
echo "============================================================"

* ----------------------------------------------------------
* 1. DC OPERATING POINT
* ----------------------------------------------------------
echo ""
echo "=== DC OPERATING POINT ==="
op

echo "--- Pickup ---"
echo "Plate voltage (target 147V):"
print v(xpickup.plate)

echo "--- Preamp ---"
echo "TR-1: B (2.45V), E (1.95V), C (4.1V):"
print v(xpre.base1) v(xpre.emit1) v(xpre.coll1)
echo "TR-2: B (4.1V), E (3.4V), C (8.8V):"
print v(xpre.coll1) v(xpre.emit2) v(xpre.coll2)
echo "Preamp output (target ~8.8V DC):"
print v(preamp_out)
echo "Feedback junction (target ~8V):"
print v(fb_junct)

echo "--- Power Amp ---"
echo "Output (target ~0V):"
print v(spkr_out)
echo "VAS out, drv_bot:"
print v(xamp.vas_out) v(xamp.drv_bot)

echo "--- Signal levels at boundaries ---"
echo "pickup_out, preamp_in, preamp_out, vol_wiper, spkr_out:"
print v(pickup_out) v(preamp_in) v(preamp_out) v(vol_wiper) v(spkr_out)
reset

* ----------------------------------------------------------
* 2. TRANSIENT: Normal playing level (y=0.10, 440 Hz, no tremolo)
* ----------------------------------------------------------
echo ""
echo "=== TRANSIENT: y=0.10, 440 Hz, Rldr=1M (no tremolo) ==="

alter @vdisp[sin] = [ 0 0.10 440 0 0 ]
tran 1u 200m 100m 1u

echo "Signal levels at each stage:"
meas tran pickup_pp PP v(pickup_out) from=100m to=200m
meas tran preamp_in_pp PP v(preamp_in) from=100m to=200m
meas tran preamp_out_pp PP v(preamp_out) from=100m to=200m
meas tran vol_wiper_pp PP v(vol_wiper) from=100m to=200m
meas tran spkr_pp PP v(spkr_out) from=100m to=200m

echo ""
echo "Fourier at speaker output:"
fourier 440 v(spkr_out)

reset

* ----------------------------------------------------------
* 3. TRANSIENT: Same but with tremolo bright (Rldr=19K)
* ----------------------------------------------------------
echo ""
echo "=== TRANSIENT: y=0.10, 440 Hz, Rldr=19K (tremolo bright) ==="

alter @vdisp[sin] = [ 0 0.10 440 0 0 ]
alter rldr = 19000
tran 1u 200m 100m 1u

meas tran pickup_pp PP v(pickup_out) from=100m to=200m
meas tran preamp_out_pp PP v(preamp_out) from=100m to=200m
meas tran spkr_pp PP v(spkr_out) from=100m to=200m

echo ""
echo "Fourier at speaker output (tremolo bright):"
fourier 440 v(spkr_out)

reset

* ----------------------------------------------------------
* 4. TRANSIENT: Fortissimo level (y=0.30, 440 Hz, no tremolo)
* ----------------------------------------------------------
echo ""
echo "=== TRANSIENT: y=0.30, 440 Hz, Rldr=1M (fortissimo) ==="

alter @vdisp[sin] = [ 0 0.30 440 0 0 ]
tran 1u 200m 100m 1u

meas tran pickup_pp PP v(pickup_out) from=100m to=200m
meas tran preamp_out_pp PP v(preamp_out) from=100m to=200m
meas tran spkr_pp PP v(spkr_out) from=100m to=200m

echo ""
echo "Fourier at speaker output (fortissimo):"
fourier 440 v(spkr_out)

reset

* ----------------------------------------------------------
* 5. FREQUENCY SWEEP: Signal level at speaker across frequencies
* ----------------------------------------------------------
echo ""
echo "=== FREQUENCY SWEEP: y=0.10, Rldr=1M ==="
echo "freq  spkr_pp"

foreach freq_val 110 220 440 880 1760 3520
  alter @vdisp[sin] = [ 0 0.10 $freq_val 0 0 ]
  tran 1u 200m 100m 1u
  meas tran spkr_pp PP v(spkr_out) from=100m to=200m
  reset
end

echo ""
echo "============================================================"
echo "Full chain validation complete."
echo "============================================================"

quit

.endc

.end
